US07049271B2
20.0 g of N-benzyl-7-methoxycarbonyl-4H-benz[1,4]oxazin-3-one are initially charged in 750 ml of MeOH. At room temperature, 35 ml of 2N aqueous sodium hydroxide solution are added dropwise, and the mixture is stirred at 40–55° C. for 30 h. The reaction solution is cooled to room temperature and poured into a mixture of 200 ml of 1N HCl and 1 kg of ice. The crude product is filtered off with suction, washed with water and dried. This gives 18.2 g (yield 95.5% of theory) of N-benzyl-7-hydroxycarbonyl-4H-benz[1,4]oxazin-3-one of melting point 230° C.

reactant | N-benzyl-7-methoxycarbonyl-4H-benz[1,4]oxazin-3-one | 20.0 g | C(C1=CC=CC=C1)N1C(COC2=C1C=CC(=C2)C(=O)OC)=O | C17H15NO4
reactant | sodium hydroxide | 2N, 35 ml | [OH-].[Na+]
reactant | HCl | 1N, 200 ml | Cl | ClH
solvent | MeOH | 750 ml | CO | CH4O
product | N-benzyl-7-hydroxycarbonyl-4H-benz[1,4]oxazin-3-one | 18.2 g, yield 95.5% | C(C1=CC=CC=C1)N1C(COC2=C1C=CC(=C2)C(=O)O)=O | C16H13NO4
